US07666864B2
(S,S)—N-(3-{3-Fluoro-4-[2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-6-oxo-1,6-dihydro-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide
To a solution of (S,S)—N-(3-{3-Fluoro-4-[4-(4-methoxy-benzyloxy)-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide (60 mg, 0.092 mmol) in TFA/methylene chloride (3.0 mL, 1/1) was stirred at rt for 1 h. Solvents were evaporated and triturated with ether to give the title product (43 mg, 88%) as a pale yellow solid. ESI MS m/z 530.4 (M+H+).

reactant | (S,S)—N-(3-{3-Fluoro-4-[4-(4-methoxy-benzyloxy)-2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | 0.092 mmol, 60 mg | FC=1C=C(C=CC1C=1C(=NC(=NC1)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])OCC2=CC=C(C=C2)OC)N2C(O[C@H](C2)CNC(C)=O)=O | C30H28FN7O9
solvent | TFA methylene chloride | 3.0 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S,S)—N-(3-{3-Fluoro-4-[2-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yloxy)-6-oxo-1,6-dihydro-pyrimidin-5-yl]-phenyl}-2-oxo-oxazolidin-5-ylmethyl)-acetamide | 43 mg, 88% | FC=1C=C(C=CC1C1=CN=C(NC1=O)O[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-])N2C(O[C@H](C2)CNC(C)=O)=O | C22H20FN7O8
